Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I'm still hearing the voices"
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Please see psychiatry consult notes by Drs ___, and 
___ dated ___ for details of HPI, past psychiatric, 
medical, family, and social histories. Additionally, please 
refer to medicine discharge summary dated ___ for details of 
medicine ICU and floor course.

Briefly, this is a ___ y/o homeless ___ F with PMH of
TBI, HIV (not on HAART), HCV (not treated), and past psychiatric
hx of polysubstance abuse (EtOH, crack cocaine, and heroin),
unspecified mood disorder (MDD with psychotic features vs.
___ mood disorder), and chronic AH who presented 
to
the ED from ___ station with tangential thoughts and complaint of
repeat head strikes after multiple falls. She was found to be
exhibiting signs of severe EtOH withdrawal and was admitted to
the ICU where she was initiated on the phenobarb protocol. She
was transferred to the medical 

On arrival to Deac 4: Pt stated that she was continuing to hear
voices and have suicidal thoughts. She declined to give details
regarding her SI, stating, "why would I tell you about it? I
would just do it." She also notes, "and obviously you guys are
not gonna give me a razor to shave with or anything." 

She reported that the voices she hears are both male and female.
They are not voices that she recognizes, and she cannot make out
what they are saying. They are frequently worse as she tries to
fall asleep. She has a difficult time discerning whether they
have been bothering her more frequently during the past several
weeks, because she has been drinking and "maybe doing crack." 
She
becomes fixated on a story about smoking a crack pipe and
throwing it onto the ground "where any kid could pick it up and
light it and smoke it," and she retells this multiple times.

 
Past Medical History:
PAST PSYCHIATRIC HISTORY: Per Dr. ___ note (___),
confirmed with ___ and updated as relevant:
- Diagnosis on discharge from ___ 4 on ___: MDD with
psychotic features vs. ___ mood disorder
- Hospitalizations: ___ reports many prior hospitalizations
(>10, including Arbour; >20 detox admissions per OMR). Most
recent hospitalization at ___ with discharge one day prior to
ED presentation (___).
- Suicide ___ stated she ODed on
Amitriptyline ___ years ago, per prior records stated she took
___ pills, went to sleep on a park bench, and then woke up and
went to her shelter, did not go to the hospital. In the past she
has also reported ingestion of alcohol as a possible suicide
attempt and a suicide attempt in ___ by overdose on unknown
pills to ED staff. ___ 4 discharge summary dated ___: "Per
pt, OD on Ultram "probably to hurt [her]self" ___ yrs ago)"
- Violence: ___
- Medication Trials: Reports h/o successful treatment with 
Zoloft
(denies knowledge of when). Also reports being txed with Haldol
"once" and states she "took too much, and my jaw was locked for
___ hours." Past documentation from ___ 4 discharge summary
dated ___ stated h/o treatment with Elavil. BEST indicated
previous reported treatment with Risperdal. OMR reveals past tx
with Risperdal and Zoloft (last filled ___.  Stabilized on
Deac 4 during most recent hospitalization with Amitriptyline and
Seroquel.
- Treaters: Denies past or present outpatient psychiatric
treaters. Per records, last had pending appointment at ___ 
for
psychiatry (Dr. ___, ___ at 9 AM). Currently states she
doesn't remember last time she saw psych.
-Access to weapons: Denies

PAST MEDICAL HISTORY:
PCP: ___, MD
- HIV (not currently taking antiretrovirals) - today denies that
she has HIV at all.
- Hepatitis C
- H/o head injury (Per ___ 4 ___ summary ___: "pt reports she
was "assaulted" and subsequently received 300 stitches, was
hospitalized x 2wks, and underwent rehab at ___ she 
denies
LOC or persistent deficits but receives SSDI for this injury")

HOME MEDICATIONS: 
Not currently taking any medications.

Per Deac 4 Discharge Summary dated ___:
1. Amitriptyline 50 mg PO QHS 
2. QUEtiapine Fumarate 50 mg PO QHS
 
Social History:
SUBSTANCE ABUSE HISTORY: Per Dr. ___ note (___),
confirmed with ___ and updated as relevant:
- Alcohol: ___ reports starting drinking age ___ due to
conflict with parents. Reports numerous detox admissions (>20 
per
OMR). States that she was sober from ___ and only involved
with AA for 1 week of that time, which she stopped because she
"did not like it". Most recent drink was 13 nips of vodka today.
Currently states she drinks about 1x/week. Denies history of 
complicated alcohol withdrawal but has required benzodiazepines
during detox admissions.
- Benzodiazepines: Denies lifetime illicit use. Reports only use
in detox when prescribed.
- Marijuana: Reports remote use in high school, denies recent
use.
- Crack cocaine: Denies current use, though say she has used in
the past.
- Heroin: Reports h/o IVDU w/ heroin ___ years, previously
reported ending ___ yrs ago. Denies current use.
- Tobacco: past smoker, but denies currently.

FORENSIC HISTORY:
Says "not lately" and can't remember last time.

Per Dr. ___ note (___): Inconsistent history: said
she spent ___ yrs" in jail for "shoplifting, drug related 
issues."
Then states she was last in jail "probably in early ___
 
Family History:
States she doesn't know.
 
Physical Exam:
 VS: T:98.4 P:106 BP:137/90 RR:16 SpO2: 100%(RA)
 * General: ___, in no apparent
distress. Appears stated age. 
 * HEENT: Normocephalic. PERRL, EOMI. Oropharynx clear.
 * Neck: Supple, trachea midline. No adenopathy or thyromegaly.
 * Back: No significant deformity, no focal tenderness.
 * Lungs: Clear to auscultation; no crackles or wheezes.
 * CV: Regular rate and rhythm; no murmurs/rubs/gallops; 2+ 
pedal
 pulses.
 * Abdomen: Soft, nontender, nondistended; no masses or
 organomegaly.
 * Extremities: No clubbing, cyanosis, or edema.
 * Skin: Warm and dry, no rashes, scars, or lesions.

 
Neurological:
   *Cranial Nerves-
        I: Not tested.
        II: Pupils equally round and reactive to light
bilaterally. Visual fields are full to confrontation.
       III, IV, VI: Extraocular movements intact bilaterally;
significant horizontal nystagmus (>7 beats) bilaterally.
       V, VII: Facial strength and sensation intact and
symmetric.
       VIII: Hearing intact to voice.
       IX, X: Palatal elevation symmetrical.
       XI: Sternocleidomastoid and trapezius normal bilaterally.
       XII: Tongue midline without fasciculations.
   *Motor- Normal bulk and tone bilaterally. No abnormal
movements, no tremor. Strength full power ___ throughout. No
gross focal motor or sensory deficits, normal gait.
   *Coordination- Normal on ___.
   *Deep tendon reflexes- 2+ and symmetrical, toes downgoing.
   *Sensation- intact to light touch, position sense intact.
   *Gait- steady, no truncal ataxia, normal stance and posture.
   *Romberg- negative.

 
Pertinent Results:
___ 06:05AM   ___ 
___
___ 06:05AM   ___ 
___ IM ___ 
___
___ 06:05AM   PLT ___
___ 06:05AM    ___  ___ ABS ___ ABS 
___ ABS ___ ABS ___
 
Brief Hospital Course:
SAFETY: ___ was placed on 15 minute checks on admission and 
remained here on that level of observation throughout. She was 
unit restricted. There were no acute safety issues during this 
hospitalization.

LEGAL: ___
PSYCHIATRIC:

___ is a ___ year old ___ female with a 
history of TBI, HIV (not on HAART therapy), HCV (not treated), 
polysubstance use (EtOH, crack cocaine, and heroin), unspecified 
mood disorder, and chronic auditory hallucinations who presented 
to the emergency department on ___ with alcohol 
intoxication, tangential thoughts, and complaints of repeated 
head strikes, now s/p ICU/medicine course for alcohol withdrawal 
with phenobarbital taper. On the unit, ___ was started on 
quetiapine (uptitrated to 300 mg BID) and on sertraline 25 mg 
daily to good effect. ___ did well on the unit and attended 
groups regularly. She recognized effect illicit drugs and 
alcohol have had on her mental health, social situation, and 
interpersonal relationships. Although she has a history of 
multiple relapses, failing to ___, and medication 
nonadherence, she kept repeating that this admission was 
different and that she wants to maintain her sobriety. She 
showered daily and had no issues with sleep or appetite. On the 
day of discharge, ___ endorsed/exhibited "good" mood and 
euthymic affect. Denied SI/HI and AVH. She expressed continued 
motivation to maintain her sobriety, do 90 AA meetings in 90 
days, and desire to ___ at ___. A ___ application was 
submitted. Her PCP was updated on the plan and ___ 
appointments were coordinated.  

MEDICAL:

#HIV: ___ not currently taking HAART. Most recent CD4 count 
42
on ___. 
- Continued Bactrim DS 1 tab daily for PCP ppx
- ___ has appointment with Dr. ___ on ___ 
on ___
to discuss reinitiation of HAART

#Hepatitis C: HCV Ab positive on ___. Not treated. 
- ___ has appointment with Dr. ___ on ___ 
on ___
to discuss treatment 

PSYCHOSOCIAL:

#) GROUPS/MILIEU: ___ was encouraged to participate in 
unit’s groups, milieu, and therapy opportunities. Usage of 
coping skills, mindfulness, and relaxation methods were 
encouraged. Therapy addressed family, social, work, and housing 
issues. The ___ enjoyed groups and participated. She also 
participated in AA meetings on the unit. 

#) COLLATERAL CONTACTS:

-Treaters- PCP (Dr. ___

-Records- Per OMR

-Family- ___ refused family meetings

#) FAMILY INVOLVEMENT:

Despite encouragement from the team throughout her admission, 
___ refused family meetings. 

#) INTERVENTIONS:

-D___ Referral: The team submitted a DMH application for the 
___ to receive services and ___ support.
-Pharmacological treatment: Quetiapine and sertraline as above.
-Individual/group/milieu therapy
-Coordinated aftercare with SW

INFORMED CONSENT:

-Quetiapine, sertraline 

The Team discussed the indications for, intended benefits of, 
and possible side effects and risks of this medication, and 
risks and benefits of possible alternatives, including not 
taking the medication, with this ___.  We discussed the 
___ right to decide whether to take this medication as 
well as the importance of the ___ actively participating 
in the treatment and discussing any questions about medications 
with the treatment team, and I answered the ___ questions. 
The ___ appeared able to understand and consented to begin 
the medication.  

RISK ASSESSMENT:

Low imminent risk of harm/violence to self/others.
 
#) Chronic/Static Risk Factors:

Chronic mental illness, chronic medical illness, single, ongoing 
homelessness.

#) Modifiable Risk Factors:

-Acute major mood episode with suicidal ideation - Modified by 
medication adjustments and psychotherapeutic interventions as 
above. 

-Active polysubstance misuse - Modified by phenobarbital taper 
while on medical floor for alcohol withdrawal and detox; 
attendance to AA meetings on the unit; list of free substance 
use recovery resources in the community.  

-Limited outpatient/social support - Modified by aftercare 
planning with SW; outpatient appointments; list of community 
resources.  

-___ - Modified by counseling on the unit. ___ 
was adherent with medications on the unit. 

#) Protective Factors:

Protective factors include current outpatient 
providers/treatment, knowledge of community resources, 
motivation to maintain sobriety, ___, and 
___ behaviors. 

PROGNOSIS:

Good: ___ was engaged on the unit, adherent with 
medications, and attended groups regularly. She has outpatient 
appointments and community resources. Current risk is low for 
intentional ___ given that ___ denies suicidal 
ideation, intent and plan, is accepting of treatment, is 
currently sober and is ___ with plans. 

 
Medications on Admission:
___ was not taking medications prior to admission. 

Per Deac 4 Discharge Summary dated ___:
1. Amitriptyline 50 mg PO QHS 
2. QUEtiapine Fumarate 50 mg PO QHS

 
Discharge Medications:
1. Sulfameth/Trimethoprim DS 1 TAB PO DAILY 
RX ___ [Bactrim DS] 800 ___ mg 1 
tablet(s) by mouth once a day Disp #*30 Tablet Refills:*0
2. QUEtiapine Fumarate 300 mg PO BID 
RX *quetiapine [Seroquel] 100 mg 3 tablet(s) by mouth twice a 
day Disp #*180 Tablet Refills:*0
3. Sertraline 25 mg PO DAILY 
RX *sertraline [Zoloft] 25 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unspecified psychotic disorder ___ vs.
schizophrenia spectrum)
EtOH use disorder
Cocaine use disorder
Heroin use disorder (in full sustained remission)

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

Mental Status Examination:
*Appearance: Woman who appears older than stated age, wearing
jeans and a sweater, tattoo on neck, hair in a bun, appropriate 
hygiene, no acute distress. 
  Behavior: Good eye contact, cooperative, engaged. No
psychomotor agitation/retardation. 
  *Mood and Affect: 'Good' / Mostly euthymic, some smiling. 
  *Speech: Normal rate, volume, rhythm, prosody, articulation.
Fluent in ___. 
  *Thought process: Linear and ___. No loosening of
associations. 
  *Thought Content: Denies SI/HI and AVH. Focused on maintaining
her sobriety. 
  *Judgment and Insight: Fair/Fair. ___ recognizes effect
drug use has had on her mental health, social situation, and
interpersonal relationships. She has a history of multiple
relapses, failing to ___, and medication nonadherence but
keeps repeating that this admission is different and that she
wants to maintain her sobriety.
  Cognition: Awake, alert, attentive throughout interview. 
Memory
intact to recent and remote history.

 
Discharge Instructions:
You were hospitalized at ___ for alcohol detox, depressed 
mood, and suicidal ideation.  We adjusted your medications, and 
you are now ready for discharge and continued treatment on an 
outpatient basis. 

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

It was a pleasure to have worked with you, and we wish you the 
best of health.

 
Followup Instructions:
___